US07662814B2
5-Methyl-4-oxo-2-phenyl-3,4-dihydrothieno[2,3-d]pyrimidine-6-carbonitrile
A stream of dry hydrogen chloride was passed through a mixture of 2-amino-5-cyano-4-methylthiophene-3-carboxylic acid ethyl ester (0.003 mol) and benzonitrile (0.0045 mol) in 20 ml. of dioxane for 2 hours. Then, the reaction was stirred at room temperature for 12 hours, subsequently, the solvent was removed under reduced pressure and the residue was triturated with diethyl ether. A precipitate was obtained, filtered and dried to yield (92% yield) the title compound as a brown solid.

reactant | hydrogen chloride | Cl | ClH
reactant | 2-amino-5-cyano-4-methylthiophene-3-carboxylic acid ethyl ester | 0.003 mol | C(C)OC(=O)C1=C(SC(=C1C)C#N)N | C9H10N2O2S
reactant | benzonitrile | 0.0045 mol | C(C1=CC=CC=C1)#N | C7H5N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Methyl-4-oxo-2-phenyl-3,4-dihydrothieno[2,3-d]pyrimidine-6-carbonitrile | 92% yield | CC1=C(SC=2N=C(NC(C21)=O)C2=CC=CC=C2)C#N | C14H9N3OS
